US04761408
(bh) (3R,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-acetoxy-2-azetidinone
At 10°, a solution of 5.37 g of cerium(IV) ammonium nitrate in 15 ml of water is added to a solution of 900 mg (1.18 mmol) of (3R,4R)-1-(p-methoxybenzyl)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-acetoxy-2-azetidinone in 30 ml of acetonitrile, and the whole is stirred for two hours at room temperature. After extraction with ethyl acetate, washing with saturated NaHCO3 solution, drying of the organic phase over sodium sulphate and concentration by evaporation under reduced pressure, the crude title compound, which is purified by chromatography over silica gel using toluene/ethyl acetate (4:1 and 1:1), is obtained.

reactant | cerium(IV) ammonium nitrate | 5.37 g | [N+](=O)([O-])[O-].[NH4+].[Ce+4].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | (3R,4R)-1-(p-methoxybenzyl)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-acetoxy-2-azetidinone | 1.18 mmol, 900 mg | COC1=CC=C(CN2C([C@@H]([C@H]2OC(C)=O)[C@@H](C)OC(=O)OCC=C)=O)C=C1 | C19H23NO7
solvent | water | 15 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (3R,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-acetoxy-2-azetidinone | C(C=C)OC(=O)O[C@H](C)[C@H]1C(N[C@@H]1OC(C)=O)=O | C11H15NO6
